US06723716B1
2-Amino-4-(2-t-butyloxycarbonylaminoethylthiomethyl)-5-thiocyanato-1,3-thiazole
To a stirred solution of 2-amino-4-(2-t-butyloxycarbonylaminoethylthiomethyl)-1,3-thiazole (4.27 g, 14.8 mmol) and potassium thiocyanate (2.87 g, 29.5 mmol) in methanol (30 mL) cooled to 0° C. was added dropwise bromine (3.55 g, 0.022 mol) and stirring was continued for 45 min. Reaction mixture was partitioned between ethyl acetate and water. Organic layer was dried over sodium sulfate and concentrated under reduced pressure to afford solid residue of title product in quantitative yield. Crude product was used in next step without further purification.

reactant | 2-amino-4-(2-t-butyloxycarbonylaminoethylthiomethyl)-1,3-thiazole | 14.8 mmol, 4.27 g | NC=1SC=C(N1)CSCCNC(=O)OC(C)(C)C | C11H19N3O2S2
reactant | potassium thiocyanate | 29.5 mmol, 2.87 g | [S-]C#N.[K+]
reactant | bromine | 0.022 mol, 3.55 g | BrBr | Br2
solvent | methanol | 30 mL | CO | CH4O
product | 2-Amino-4-(2-t-butyloxycarbonylaminoethylthiomethyl)-5-thiocyanato-1,3-thiazole | quantitative yield | NC=1SC(=C(N1)CSCCNC(=O)OC(C)(C)C)SC#N | C12H18N4O2S3
